Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L. sided weakness, slurred speech, difficulty speaking 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ M w PMHx of HLD, obesity, and
possible OSA who presents to ___ ED for transient left sided
sensorimotor deficits, now back at baseline.
Mr. ___ states that he was in good health today aside from
a recent back injury he sustained the day prior at work. At
around 7PM, after a day of driving as an EMT, he felt some left
leg weakness as he tried to climb the stairs in his station.
After about ___ minutes, he noted the onset of left arm and 
leg
tingling. He went to go talk to a co-worker, who told him that 
he
had slurred speech and "aphasia". Mr. ___ reports that he
could understand what was being said to him and knew what he
wanted to say. He stated that his words were "slurred." He was
put in an ambulance, and per report, had some L facial droop.
On arrival to ___ ED just prior to 8PM, an NIHSS of 6 was
documented for (L sided weakness and sensory loss, L facial
droop, slurred speech, and aphasia). On my examination at 8:10,
he scored a 1 for subjective left sided "tingling." After
completion of CTA, Mr. ___ reports that his deficits had
resolved completely.
On ROS, he denies any associated HA. He does report some brief
"blurry" vision at the station that has now improved. He has 
been
having "ear fullness" for the last several days. He also reports
"dizziness" upon standing up that sounds like orthostatic
hypotension. He denies any confusion or bowel / bladder 
problems.
He did report an "out of body experience" in the ambulance.
Mr. ___ did recently injure his back. He states that the
previous morning he was lifting a large patient off a stretcher
and felt a "pop" in his back. Shortly afterwards, he had pain
radiating down his right leg. He went to go see a physician at
___ in ___. He was not given a formal diagnosis
but placed on work restrictions (no heavy lifting).

 
Past Medical History:
- HLD
- hypothyroidism
- h/o palpitations, previously on atenolol
- obesity
- ?OSA (no formal sleep study)
- seasonal allergies
- L inguinal hernia repair ___
 
Social History:
___
Family History:
No history of MI or CVA in family member < ___ years.
MGF - with MI in advanced age
 
Physical Exam:
PHYSICAL EXAMINATION
VS T HR102 BP159/91 RR16 ___
GEN - obese, cooperative M, NAD
HEENT - NC/AT, MMM
NECK - thick, short, full ROM
CV - RRR
RESP - normal WOB
ABD - obese, soft, NT, ND
EXTR - WWP, atraumatic

___ Stroke Scale - Total [0] @ 20:30
1a. Level of Consciousness - 0
1b. LOC Questions - 0
1c. LOC Commands - 0
2. Best Gaze - 0
3. Visual Fields - 0
4. Facial Palsy - 0
5a. Motor arm, left - 0
5b. Motor arm, right - 0
6a. Motor leg, left - 0
6b. Motor leg, right - 0
7. Limb Ataxia - 0
8. Sensory - 0
9. Language - 0
10. Dysarthria - 0
11. Extinction and Neglect - 0

NEUROLOGICAL EXAMINATION:
MS - Awake, alert, oriented x3. Attention to examiner easily
attained and maintained. Concentration maintained when recalling
days of week backwards. Recalls a coherent history. Structure of
speech demonstrates fluency with full sentences, intact
repetition, and intact verbal comprehension. Content of speech
demonstrates intact naming (high and low frequency) and no
paraphasias. Normal prosody. No dysarthria. No apraxia. No
evidence of hemineglect. No left-right agnosia.

CN - [II] PERRL 3->2 brisk. VF full to number counting. [III, 
IV,
VI] EOMI, no nystagmus. [V] V1-V3 without deficits to light 
touch
or PP bilaterally. [VII] Mildly asymmetric smile but good
activation biterally. Strong eye closure bilaterally. Good cheek
puff bilaterally. [VIII] Hearing intact to finger rub voice. 
[IX,
X] Palate elevation symmetric. [XI] SCM/Trapezius strength ___
bilaterally. [XII] Tongue midline with full ROM.

MOTOR - Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No tremor or asterixis.
 [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[___]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]  [L5]
L  5      5     5     5     5    5    5      5     5    5     5
R  5      5     5     5     5    5    5      5     5    5     5

SENSORY - No deficits to light touch or pinprick throughout.

REFLEXES -
 [Bic] [Tri] [___] [Quad] [Gastroc]
L 2      2      2      3        2
R 2      2      2      3        2
Plantar response down on the L, up on the R.

COORD - No dysmetria with finger to nose or heel-shin testing.
Good speed and intact cadence with rapid alternating movements.
Negative Romberg.

GAIT - Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway.

 
Pertinent Results:
___ 06:25AM BLOOD WBC-5.6 RBC-4.57* Hgb-13.3* Hct-42.4 
MCV-93 MCH-29.1 MCHC-31.4* RDW-13.0 RDWSD-43.8 Plt ___
___ 06:25AM BLOOD Glucose-104* UreaN-12 Creat-0.8 Na-140 
K-4.2 Cl-101 HCO3-30 AnGap-13
___ 06:25AM BLOOD CK(CPK)-172
___ 08:07PM BLOOD ALT-25 AST-33 AlkPhos-69 TotBili-0.5
___ 08:07PM BLOOD Lipase-42
___ 06:25AM BLOOD CK-MB-1 cTropnT-<0.01
___ 06:25AM BLOOD Calcium-9.2 Phos-4.7* Mg-2.2
___ 06:25AM BLOOD %HbA1c-5.6 eAG-114
___ 08:06PM BLOOD Glucose-103 Na-142 K-3.8 Cl-99 calHCO3-28
 
Brief Hospital Course:
Mr. ___ is a ___ yo male who presented by ambulance to 
___ for symptoms of L. sided 
weakness, slurred speech, and difficulty speaking. Upon arrival 
to the ED, a code stroke was called. Mr. ___ underwent CTA 
head/neck with and without contrast, which demonstrated no 
abnormalities. Patient was admitted to the hospital for further 
workup of symptoms. Subsequent MRI imaging was similarly 
unremarkable. Echo was not done due to symptoms being most 
consisted with complicated migraine. No holter monitor required 
on discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 112 mcg PO 7 TABLETS ON ___ ONLY 
2. Omeprazole 20 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Co Q-10 (coenzyme Q10) 100 mg oral DAILY 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Medications:
1. Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth At bedtime Disp #*30 
Tablet Refills:*0
2. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
3. Co Q-10 (coenzyme Q10) 100 mg oral DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Levothyroxine Sodium 50 mcg PO DAILY 
RX *levothyroxine 50 mcg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Complicated migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,   
   You were hospitalized due to symptoms of left-sided numbness 
and weakness that have now resolved.   You were evaluated for a 
possible stroke, with a Head CT and MRI that were negative for 
stroke.   After further discussion, it appears that the course 
of your symptoms and the associated stabbing right headache you 
had with associated nausea and vomiting is most consistent with 
a complicated migraine headache.  At times the neurologic 
symptoms occur before the actual headache itself. 

We are changing your medications as follows:  
-Take acetaminophen 650mg or ibuprofen 400mg as needed at the 
onset of headache

Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  

 
Followup Instructions:
___